Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
dapsone
 
Attending: ___.
 
Chief Complaint:
Altered mental status, chills
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ year old female with history of transformed diffuse large B 
cell lymphoma s/p a curative attempt with an autoSCT with BEAM 
conditioning in ___ ___s IFRT with course complicated 
by BCNU pneumonitis, who was subsequently found to have
treatment-related MDS on BM biopsy performed on ___. She is
currently on C2D12 of treatment with decitabine and presents 
with
one day of confusion, round to have rigors in the ED. 

Of note, patient was recently admitted to ___ service from
___ to ___ after starting her first cycle of decitabine for
persistent neutropenic fever, with no clear source identified.
She had negative cultures. Imaging with MRI revealed possible
early discitis and possible myositis of the psoas muscle. She
underwent psoas muscle biopsy and also had an ulcer on the L 
shin
which was biopsied. Culture and infectious studies were all
negative. In addition, a universal PCR was sent which was
negative. Infectious Disease team consulted. She was treated
ultimately with 6week course of vancomycin/Cefepime/Micafungin
(last day previously planned for ___ with empiric coverage
for osteomyelitis. She was seen yesterday in ___ clinic for
follow-up on ___ where she reported feeling well and was noted 
to
be _______alert and oriented. 

In ER, endorses vomiting, anxiety and confusion. Does not feel
feverish and denies CP, SOB. She was noted to be AO-3 in ER. CTH
showed no acute intracranial process. CXR showed moderate
cardiomegaly (unchanged) and mild Pulm vasc congestion.
She was treated with Vancomycin, cefepime and Micafungin and was
admitted to ___ service.

  On floor, patient seen in distress from headaches and nausea.
Headache, "not very severe, not ___ , more of a moderate pain"
present on only R side of the head, unlike her previous migraine
attacks. Denies neck stiffness, able to touch chin to chest
without issues. No sick contacts. No fevers or rash suggestive 
of
meningococcal infection. She is nauseous and is seen moving
around in be trying to find a comfortable position. 

 She is able to provide good history but some slowing in her
thought process seen, unsure if she is distracted from the pain
and nausea but she stops sentences midway and needs prompting to
finish her sentences. She is AO-3. Clear thought content. Goal
directed behavior. Able to express herself well albeit above
symptoms. 

 Temp yesterday per pt was 97 but she felt chills. No other
documented high fevers. 

Review of Systems:  
(+) Per HPI.
Positive for fevers and chill. Positive for Nausea. Negative for
neck stiffness, night sweats, headache, vision changes,
rhinorrhea, congestion, sore throat, cough, shortness of breath,
chest pain, abdominal pain, vomiting, diarrhea, constipation,
BRBPR, melena, hematochezia, dysuria, hematuria. 

 
Past Medical History:
Oncologic history: In brief, history of follicular lymphoma 
stage IIIA s/p CHOP x 6 cycles in ___ followed by CVP and 
rituximab in ___ for residual disease. ___: RICE 
chemotherapy x 3 cycles. ___ autoBMT (BEAM). ___ XRT to 
local disease. She has a hx of hypogammaglobulinemia.

Other PMH:
obesity
Acute DVT in the right popliteal/femoral veins + superficial 
thrombosis
--Transformed DLBCL with history of follicular lymphoma as noted 
above
--CLL, noted on BM biopsy on ___.
--Cerebral Aneurysm s/p coil ___ c/b hyperthesia of R V1/V2 
(*Known slight CN VI palsy & mild proptosis of R eye)
--Hypogammaglobulinemia, receives IVIG PRN
--R leg DVT.  IVC filter in place, on rivaroxaban
--BCNU pneumonitis, on prednisone
--Mild GERD
--OA / LBP
--Small Intestinal Bacterial Overgrowth
--Trochanteric Bursitis
--s/p Excisional Bx L Cervical Lymph Node
--s/p L total knee replacement ___, walks with cane
--s/p I&D Labial Abscess
--s/p Excision Cyst R ___ Digit of Hand
 
Social History:
___
Family History:
brother - lymphoma

 
Physical ___:
ADMISSION EXAM
===============
Vitals: 98.6 PO 144 / 90 87 22 97 RA 
Gen: appears in distress, nauseous, moving around in bed seeking
a comfortable position
HEENT: No conjunctival pallor. No icterus. MMM. OP clear.R eye
sluggishly responds to light. L eye brisk, this anomaly is a old
issue per patient.   
NECK: No JVD.  
CV: Normocardic, regular. Normal S1,S2. No MRG.   
LUNGS: No incr WOB. CTAB. No wheezes, rales, or rhonchi.  
ABD: NABS. Soft, NT, ND. obese,   
EXT: WWP. No ___ edema. 
SKIN: No rashes/lesions, petechiae/purpura ecchymoses.  
NEURO: A&Ox3.Normal finger to nose testing. Normal strength and
sensation in all 4 extremities. DTR 2+ in patella b/L. Negative
kernig's sign. 
LINES: L chest wall port.

DISCHARGE EXAM
==============
Vitals: 99.1 130 / 52 87 18 100 RA 
General: Appears comfortable, upbeat, NAD
HEENT: OP clear
CV: RRR, no m/r/g
Pulm: CTAB, poor air movement in expiratory phase
Abd: Obese, soft, NT, ND, NABS
EXT: Large violaceous confluent patch on shins b/l, exquisitely 
TTP on ___ medical shin without induration or warmth; tense ___ b/l 
stable from prior  
Neuro: A&Ox3 without word finding difficulty. 
 
Pertinent Results:
ADMISSION:

___ 12:05PM BLOOD WBC-0.6* RBC-2.77* Hgb-7.9* Hct-24.5* 
MCV-88 MCH-28.5 MCHC-32.2 RDW-14.2 RDWSD-45.2 Plt Ct-18*#
___ 12:05PM BLOOD UreaN-17 Creat-0.7 Na-140 K-4.1 Cl-105 
HCO3-26 AnGap-13
___ 12:00AM BLOOD ALT-9 AST-13 AlkPhos-138* TotBili-0.7
___ 12:05PM BLOOD Albumin-3.9 Calcium-8.6 Phos-2.1* Mg-2.2
___ 12:00AM BLOOD TSH-2.3
___ 12:00AM BLOOD IgG-960 IgA-89 IgM-29*
___ 12:49PM BLOOD Lactate-1.6

MICRO:

   URINE CULTURE (Final ___: 
      ENTEROCOCCUS FAECIUM.    10,000-100,000 CFU/mL. 
         LINEZOLID sensitivity testing performed by ___. 


                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS FAECIUM
                             |   
AMPICILLIN------------  =>32 R
LINEZOLID-------------       S
NITROFURANTOIN--------   128 R
TETRACYCLINE----------  =>16 R
VANCOMYCIN------------  =>32 R

IMAGING:
EXAMINATION:  UNILAT LOWER EXT VEINS LEFT 
  
INDICATION:  ___ year old woman with transformed follicular 
lymphoma and h/o 
CLL s/p auto SCT in ___ in remission from lymphoma but now with 
MDS; h/o R 
DVT off anticoagulation; anterior medial leg swelling near site 
of former 
trauma  // r/o DVT; r/o drainable collection 
  
TECHNIQUE:  Grey scale, color, and spectral Doppler evaluation 
was performed 
on the left lower extremity veins. 
  
COMPARISON:  Bilateral lower extremity venous duplex ultrasound 
___ 
  
FINDINGS:  
  
There is normal compressibility, flow, and augmentation of the 
left common 
femoral, femoral, and popliteal veins.  The posterior tibial and 
peroneal 
veins could not be visualized due to extensive soft tissue 
edema. 
  
There is normal respiratory variation in the common femoral 
veins bilaterally. 
  
IMPRESSION:  
  
No evidence of deep venous thrombosis in the left common 
femoral, femoral, and 
popliteal veins. The posterior tibial and peroneal veins could 
not be 
visualized due to extensive soft tissue edema. 
  
EXAMINATION:  US LOWER EXTREMITY, SOFT TISSUE LEFT 
  
INDICATION:  ___ year old woman with transformed follicular 
lymphoma and h/o 
CLL s/p auto SCT in ___ now with treatment MDS and spinal osteo 
on 
antimicrobials.  She has h/o DVT and now with 
swelling/tenderness/erythema of 
L anterior/medial leg  // r/o drainable collection 
  
TECHNIQUE:  Grayscale ultrasound images were obtained of the 
superficial 
tissues of the left calf in the area of the scab. 
  
COMPARISON:  None 
  
FINDINGS:  
  
Transverse and sagittal images were obtained of the superficial 
tissues of the 
left calf in the area of the scab.  Extensive soft tissue edema 
is seen.  
There is a 0.___alcification in the subcutaneous fat in 
this region.  
No other masses are seen.  There is no abscess. 
  
IMPRESSION:  
  
Extensive soft tissue edema in the left calf in the area of the 
scab.  No 
drainable fluid collections are seen.  There is a 0.8 cm 
calcification in the 
subcutaneous fat in this region which most likely represents a 
phlebolith.  
This could be confirmed with x-ray. 

EXAMINATION:  CT HEAD W/O CONTRAST Q111 CT HEAD 
  
INDICATION:  ___ with neutropenia, DLBCL, acute confusion, 
evaluate for mass 
or hemorrhage. 
  
TECHNIQUE:  Contiguous axial images of the brain were obtained 
without 
contrast. Coronal and sagittal reformations as well as bone 
algorithm 
reconstructions were provided and reviewed. 
  
DOSE:  Acquisition sequence: 
   1) Sequenced Acquisition 16.0 s, 16.4 cm; CTDIvol = 48.9 mGy 
(Head) DLP = 
802.7 mGy-cm. 
 Total DLP (Head) = 803 mGy-cm. 
  
COMPARISON:  Prior head CT dated ___. 
  
FINDINGS:  
  
Metallic streak artifact related to prior right supraclinoid ICA 
embolization 
limits evaluation of the skullbase.  There is no evidence of 
infarction, 
hemorrhage, edema, or mass.  There is prominence of the 
ventricles and sulci 
suggestive of involutional changes. 
  
There is no evidence of fracture.  The visualized portion of the 
paranasal 
sinuses, mastoid air cells, and middle ear cavities are clear.  
The visualized 
portion of the orbits are unremarkable. 
  
IMPRESSION: 
  
  
1. No evidence of acute intracranial process. 
2. Age related involutional changes. 
3. Mildly limited evaluation of the skullbase due to streak 
artifact from 
right supraclinoid ICA embolization. 

TECHNIQUE:  Chest PA and lateral 
  
COMPARISON:  Prior chest radiographs dated ___. 
  
FINDINGS:  
  
An accessed left pectoral Port-A-Cath catheter tip terminates in 
the mid SVC.  
Moderate cardiomegaly and mild pulmonary vascular congestion 
without frank 
pulmonary edema is unchanged from the prior study.  There is no 
pleural 
effusion, pneumothorax, or focal consolidation.  Irregularity of 
the right 
upper chest wall is chronic and unchanged. 
  
IMPRESSION:  
  
Unchanged moderate cardiomegaly and mild pulmonary vascular 
congestion without 
frank edema.  No consolidation. 

EXAMINATION:  MR HEAD W AND W/O CONTRAST T9112 MR HEAD 
  
INDICATION:  ___ patient with myelodysplastic syndrome, 
low platelets, 
right cerebellar aneurysm clipping in ___, presenting with 
headaches and 
sepsis.  Evaluate for hemorrhage. 
  
TECHNIQUE:  Sagittal and axial T1 weighted imaging were 
performed. After 
administration of 11 mL of Gadavist intravenous contrast, axial 
imaging was 
performed with gradient echo, FLAIR, diffusion, and T1 
technique. Sagittal 
MPRAGE imaging was performed and re-formatted in axial and 
coronal 
orientations. 
  
COMPARISON:  CT head ___ 
  
FINDINGS:  
  
There is no evidence of acute infarction, or intracranial 
hemorrhage.  The 
ventricles are normal in size without mass effect or midline 
shift.  There is 
no abnormal enhancement, enhancing mass, or leptomeningeal 
disease.  There is 
minimal nonspecific scattered foci of hyperintense T2/FLAIR 
signal changes 
within the subcortical and periventricular white matter, which 
is likely a 
sequela of chronic small vessel microangiopathy.  The dural 
venous sinuses 
appear patent on post-contrast MPRAGE images.  The paranasal 
sinuses appear 
clear.  The bilateral mastoid air cells appear unremarkable.  
The orbits and 
visualized soft tissues appear unremarkable. 
  
IMPRESSION: 
  
  
1. No evidence of intracranial hemorrhage, acute infarction, 
edema, or 
abnormal enhancement. 

EXAMINATION:  MR ___ AND W/O CONTRAST ___ MR SPINE 
  
INDICATION:  ___ year old woman with transformed follicular 
lymphoma and h/o 
CLL s/p auto SCT in ___ in remission from lymphoma standpoint 
but developed 
treatment related MDS, receiving Dacogen who developed 
neutropenic fevers and 
MRI on ___ showed ? early discitis and L psoas abnormality 
now 5 weeks 
into antibiotics.  // Evaluate for the evolution of theL4-L5 
process involving 
endplates and L psoas muscle  ___ year old woman with transformed 
follicular 
lymphoma and h/o CLL s/p auto SCT in ___ in remission from 
lymphoma 
standpoint but developed treatment related MDS, receiving 
Dacogen who 
developed neutropenic fevers and MRI on ___ showed ? early 
discitis and L 
psoas abnormality now 5 weeks into antibiotics.  // Evaluate for 
the evolution 
of theL4-L5 process involving endplates and L psoas muscle   
Evaluate for the 
evolution of theL4-L5 process involving endplates and L psoas 
muscle 
  
TECHNIQUE:  Sagittal imaging was performed with T2, T1, and STIR 
technique, 
followed by axial T2 imaging. This was followed by sagittal and 
axial T1 
images obtained after the uneventful intravenous administration 
of 11 mL of 
Gadavist  contrast agent. 
  
COMPARISON:  Lumbar spine MR examinations ___ and ___.  
CT abdomen and pelvis ___. 
  
FINDINGS:  
  
Again seen is scoliosis convex to the left in the upper lumbar 
spine and to 
the right in the lower lumbar spine.  Again seen is anterior 
subluxation of L5 
on S1.  Again seen is ___ type 1 signal intensity change at 
L2-3.  This 
includes a low signal of the vertebral endplates on the T1 
weighted images and 
high signal of these endplates on the STIR images.  This finding 
has not 
changed since ___. 
  
New since ___ but unchanged since ___ are 
similar changes 
at the L4-5 interspace.  There is low signal of the endplates on 
the T1 
weighted images and high signal on the STIR images.  All of the 
lumbar discs 
are hypointense on the T2 weighted and STIR images as are the 
discs at the T9 
through T12 level.  These are further manifestations of 
degenerative disc 
disease.  The endplates at L2-3 and at L4-5 enhance after 
contrast 
administration.  This is typical ___ type 1 change.  The 
intervertebral 
discs themselves do not enhance after contrast administration. 
  
Again seen are hypointensities in the intervertebral discs at 
multiple levels. 
Correlation with the CT abdomen and pelvis of ___ 
demonstrates 
that at every level from L2 through S1 included a vacuum 
phenomenon in the 
intervertebral disc. 
  
There is no evidence of abnormal intraspinal 
contrast-enhancement. 
  
The psoas and spinal erector muscles are asymmetric and 
demonstrate fatty 
atrophy bilaterally. These changes are likely a result of the 
scoliosis.  Much 
of the hyperintensity seen on the pre and postcontrast axial T1 
weighted 
images through the medial portion of the left psoas muscle at 
the lower L4 
level is due to the fatty atrophy, rather than enhancement.  It 
is unclear 
whether there is any abnormal enhancement of the left psoas 
muscle, if so, it 
is minimal. 
  
Hypointensity on the T1 weighted images with enhancement after 
contrast 
administration involves the left side of the superior portion of 
the L5 
vertebral body and extends through the pedicle into the facet 
joint.  This 
correlates with mild hyperintensity in these regions on the STIR 
images.  
There is slight induration of the adjacent fat between the 
vertebral body and 
the psoas muscle, best seen on image 30 of series 7 with 
enhancement seen on 
image 30 of series 9.  These findings may represent further 
inflammatory 
change due to degenerative disease, or a local focus of 
infection.  Note that 
this appearance is quite similar to that of the ___ 
study.  The CT 
scans through the left facet joint at this level consistently 
demonstrated a 
vacuum phenomenon, arguing strongly against infection of the 
joint.  There is 
no evidence of bone destruction on the CT scans, which would be 
highly unusual 
if there were chronic osteomyelitis extending as far back as 
___.  
There is similar mild enhancement posteriorly along the left 
lamina at this 
level.  Overall, these findings again are more likely due to 
inflammatory 
degenerative disease than infection. 
  
The combination of vacuum phenomenon, low signal of the disc on 
the T2 
weighted images, ___ type 1 signal intensity changes of the 
endplates and 
stability over time all argue in favor of degenerative disc 
disease as the 
cause of these changes.  This constellation of findings would be 
extremely 
unlikely in the setting of discitis. 
  
There is a mild bulge of the T11-12 disc with no encroachment on 
the spinal 
cord or neural foramina. 
  
At T12-L1 there is no encroachment on the cord or foramina.  
Incidentally 
noted is an apparent right renal cyst, better evaluated on the 
recent CT scan. 
There is a small midline and right-sided protrusion of the 
intervertebral disc 
that extends superiorly along the posterior margin of the L1 
vertebral body.  
This does not contact the nerve roots.  The neural foramina 
appear normal. 
  
At L1-2 there is a small midline and right-sided disc protrusion 
that 
encroaches on the thecal sac but does not contact the nerve 
roots.  This 
fragment extends superiorly along the posterior margin of the L1 
body.  The 
neural foramina appear normal. 
  
At L2-3, bulging of the disc and facet osteophytes produce 
encroachment on the 
traversing L3 nerve roots bilaterally.  There is narrowing of 
the right neural 
foramen due to facet osteophytes and intervertebral osteophytes. 

  
At L3-4, disc bulging and intervertebral osteophytes contact the 
traversing 
right L4 nerve root.  The neural foramina are moderately 
narrowed bilaterally. 
  
At L4-5, there is disc bulging but no evidence of nerve root 
compression 
within the spinal canal.  There are prominent facet osteophytes 
bilaterally 
the produce severe left and moderate right 
  
At L5-S1, there is elongation of the spinal canal due to the 
subluxation of L5 
on S1.  There are prominent facet osteophytes bilaterally.  The 
combination of 
these factors and loss of height of the intervertebral disc as 
well as disc 
bulging produces moderate -severe narrowing of the neural 
foramina 
bilaterally. 
  
  
IMPRESSION: 
  
  
1. As discussed above, the vertebral, intervertebral disc, facet 
and left 
psoas muscle findings are likely due to a combination of 
scoliosis and chronic 
degenerative disc disease, likely with inflammation on this 
basis. 
2. The minimal change over time, vacuum phenomenon in the 
intervertebral discs 
and facet joints, absence of bone destruction and pattern of 
signal intensity 
abnormalities argue against infection as the etiology. 
3. Degenerative disc disease produces mild encroachment on 
several nerve roots 
and more severe narrowing of the neural foramina at several 
levels. 

EXAMINATION:  TIB/FIB (AP AND LAT) LEFT 
  
INDICATION:  ___ year old woman with LLE edema, phlebolith seen 
on US  // 
phlebolith seen on US? 
  
TECHNIQUE:  Left tibia, fibula two views 
  
COMPARISON:  Ultrasound lower extremity ___ 
  
FINDINGS:  
  
Left knee arthroplasty.  There are few benign rounded 
calcifications in the 
anterior pretibial soft tissues, likely represent phleboliths.  
There is no 
soft tissue swelling.  Surgical clips in the soft tissues.  
Calcaneal Achilles 
bone spur.  Degenerative changes in the midfoot.  Radiopaque 
density projected 
over proximal leg, just below medial ___ be external to 
the patient. 
  
IMPRESSION:  
  
Few rounded calcifications in pretibial soft tissues, likely 
represent 
phleboliths. 

DISCHARGE:

___ 12:25AM BLOOD WBC-0.6* RBC-2.74* Hgb-7.8* Hct-24.4* 
MCV-89 MCH-28.5 MCHC-32.0 RDW-14.1 RDWSD-44.7 Plt Ct-13*
___ 12:25AM BLOOD Neuts-5* Bands-0 Lymphs-94* Monos-0 Eos-0 
Baso-1 ___ Myelos-0 AbsNeut-0.03* AbsLymp-0.56* 
AbsMono-0.00* AbsEos-0.00* AbsBaso-0.01
___ 12:25AM BLOOD Glucose-115* UreaN-12 Creat-0.9 Na-139 
K-3.8 Cl-103 HCO3-22 AnGap-18
___ 12:25AM BLOOD ALT-12 AST-15 LD(LDH)-169 AlkPhos-174* 
TotBili-0.3
___ 12:25AM BLOOD Albumin-4.1 Calcium-8.4 Phos-2.9 Mg-2.___ year old female with history of transformed diffuse large B 
cell lymphoma s/p a curative attempt with an auto SCT with BEAM 
conditioning in ___ ___s IFRT with course complicated 
by ___ pneumonitis, who was subsequently found to have
treatment-related MDS on BM biopsy performed on ___. She is
currently on C2D12 of treatment with decitabine and presents 
with
one day of confusion and chills. Neutropenic and afebrile with 
no infectious source identified, improved rapidly to baseline on 
___ and IV antibiotics were deescalated. 

#Altered mental status: Presented with word finding difficulty 
and generalized malaise with decreased PO intake, without true 
global sensorium deficit. 1 month prior during hospitalization 
had been diagnosed with presumed osteomyelitis though imaging 
was equivocal, and started on 1 month broad spectrum ABX course. 
On this admission, ___ c/f meningitis, cefepime was increased to 
meningitis dosing and ampicillin was added. Her home vanc and 
mica were continued. On ___ ___ the patient rapidly improved and 
mental status and symptoms were back to her baseline. Urine 
culture drawn in the ED (taken in bed-pan, not sterile) grew 
Enteroccus faecium pan-resistant, including ampicillin and 
vancomycin. The organism was not sensitive to any of the 
antibiotics that she was on, thus the organism was not treated, 
however she improved to baseline as above. Thus the UTI was 
likely not the source of her AMS. In this light, she was not 
sent out on further antibiotics, but was counseled to return to 
the hospital if she developed urinary symptoms or more 
confusion. The true etiology is unclear. It may have been a 
viral infection or possibly cerebral hypoperfusion in the 
setting of vascular pathology (h/o aneurysms). 

#UTI: see above for urine culture growing Enterococcus faecium. 

#LLE edema: Had a history of DVTs and was previously on 
rivaroxaban but this had been held for some time ___ 
thrombocytopenia. She has an IVC filter in place. Rivaroxaban 
was not restarted ___ thrombocytopenia. Held on discharge. 

#?Nocardia skin rash: Had area of tenderness at site chronic 
venous stasis dermatitis, previously biopsied by not sent for 
AFB/nocardia. When patient had AMS, nocardia was thought to be 
possible explanation with skin finding and AMS. Biopsy was 
deferred in-house since patient resolved to baseline. Consider 
biopsy if symptoms return. 

#Neutropenia: Started on PO cipro and fluconazole once IV abx 
were discharged as above. Discharged on cipro and fluc. qTC on 
discharge was 431ms. 

TRANISTION ISSUES
=================
[]acyclovir not seen as a previous home med, was started on 
acyclovir for ppx on discharge 
[]discharged on PO fluconazole and cipro ongoing for ppx
[]consider biopsy of L medial shin and sending for AFB/nocardia 

# CODE: Confirmed Full
# EMERGENCY CONTACT: ___ (husband) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ascorbic Acid ___ mg PO BID 
2. Cyanocobalamin 1000 mcg PO QHS 
3. Fluticasone Propionate 110mcg 2 PUFF IH BID:PRN nasal 
congestion 
4. FoLIC Acid 3.2 mg PO DAILY 
5. Gabapentin 900 mg PO TID 
6. Omeprazole 20 mg PO DAILY 
7. Ipratropium Bromide MDI 2 PUFF IH QID:PRN wheeze  
8. Potassium Chloride 10 mEq PO DAILY 
9. Venlafaxine 25 mg PO BID 
10. albuterol sulfate 2.5 mg /3 mL (0.083 %) inhalation Q6H 
11. albuterol sulfate 90 mcg inhalation Q4H:PRN sob/wheezing 
12. Furosemide 20 mg PO DAILY 
13. Diazepam 5 mg PO QHS 
14. CefePIME 2 g IV Q12H 
15. Docusate Sodium 100 mg PO BID 
16. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
17. Senna 8.6 mg PO BID:PRN constipation 
18. Rivaroxaban 20 mg PO DAILY 
19. OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate 
20. OxyCODONE SR (OxyconTIN) 20 mg PO Q12H 
21. Vancomycin 750 mg IV Q 12H 
22. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
23. Micafungin 100 mg IV Q24H 

 
Discharge Medications:
1.  Acyclovir 400 mg PO Q8H 
RX *acyclovir 400 mg 1 tablet(s) by mouth three times a day Disp 
#*90 Tablet Refills:*0 
2.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
3.  Fluconazole 400 mg PO Q24H 
RX *fluconazole 200 mg 2 tablet(s) by mouth daily Disp #*60 
Tablet Refills:*0 
4.  Potassium Chloride 10 mEq PO DAILY  
5.  albuterol sulfate 2.5 mg /3 mL (0.083 %) inhalation Q6H  
6.  albuterol sulfate 90 mcg inhalation Q4H:PRN sob/wheezing  
7.  Ascorbic Acid ___ mg PO BID  
8.  Cyanocobalamin 1000 mcg PO QHS  
9.  Diazepam 5 mg PO QHS  
10.  Docusate Sodium 100 mg PO BID  
11.  Fluticasone Propionate 110mcg 2 PUFF IH BID:PRN nasal 
congestion  
12.  FoLIC Acid 3.2 mg PO DAILY  
13.  Furosemide 20 mg PO DAILY  
14.  Gabapentin 900 mg PO TID  
15.  Ipratropium Bromide MDI 2 PUFF IH QID:PRN wheeze   
16.  Omeprazole 20 mg PO DAILY  
17.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate  
18.  OxyCODONE SR (OxyconTIN) 20 mg PO Q12H  
19.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
20.  Senna 8.6 mg PO BID:PRN constipation  
21.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
22.  Venlafaxine 25 mg PO BID  
23. HELD- Rivaroxaban 20 mg PO DAILY  This medication was held. 
Do not restart Rivaroxaban until checking with your oncologist 
or PCP, as your platelets are too low to take this now

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: 
Diffuse large B-cell lymphoma
MDS
___ encephalopathy 
___ 

Secondary:
History of cerebrovascular accident
Chronic venous stasis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital because you were confused and we were 
concerned for infection. 

What happened in the hospital:
- You had scans of your brain that did not show bleeding or 
infection
- You had an MRI of your spine that did not show evidence of 
bone infection, also called osteomyelitis
- We added an antibiotic in the hospital to your home regimen of 
IV antibiotics 
- Your confusion cleared and you returned to your baseline 
- We found a bacteria in your urine that was not treated by the 
antibiotics you were on. However, bacteria can normally be in 
the urine and we do not think this was the cause of your 
confusion or chills. IF YOU DO HAVE PAIN WITH URINATION OR 
INCREASED URINARY FREQUENCY, OR IF YOU BECOME CONFUSED AGAIN, 
COME BACK TO THE HOSPITAL AND CALL YOUR DOCTOR. 

After you leave the hospital: 
- Attend your follow-up appointments 
- Take your medications as prescribed 
- Take your new medications, ciprofloxacin, acyclovir, and 
fluconazole (to prevent infections), until otherwise instructed 
by your oncologist

It was a pleasure taking care of you. 

Sincerely,

Your ___ Team
 
Followup Instructions:
___